USRE031165
α,α'-bis-(4-hydroxyphenyl)-p-diisopropylbenzene.
The polycarbonates may, of course, be branched by incorporating small quantities of polyhydroxyl compounds, e.g. 0.05 to 2.0 mols percent (based on the quantity of bisphenols). Polycarbonates of this kind have been described, e.g. in German Offenlegungsschriften No. 1,570,533; 2,116,974 and 2,113,347, in British Patents No. 885,442 and 1,079,821 and in U.S. Pat. No. 3,544,514. The following are some of the polyhydroxyl compounds which are suitable for this purpose: Phloroglucinol, 4,6-dimethyl-2,4,6-tri-(4-hydroxyphenyl)-heptene-(2), 4,6-dimethyl-2,4,6-tri-(4-hydroxyphenyl)-heptane, 1,3,5-tri-(4-hydroxyphenyl)-benzene, 1,1,1-tri-(4-hydroxyphenyl)-ethane, tri-(4-hydroxyphenyl)-phenyl-methane, 2,2-bis-[4,4-(4,4'-dihydroxydiphenyl)-cyclohexyl]-propane, 2,4-bis-(4-hydroxyphenyl-4-isopropyl)-phenol,2,6-bis-(2'-hydroxy-5'-methyl-benzyl)-4-methylphenol, 2,4-dihydroxybenzoic acid, 2-(4-hydroxyphenyl)-2-(2,4-dihydroxyphenyl)-propane and 1,4-bis-(4',40"-dihydroxytriphenyl-methyl)-benzene.

reactant | Phloroglucinol | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | 4,6-dimethyl-2,4,6-tri-(4-hydroxyphenyl)-heptane | CC(CC(C)C1=CC=C(C=C1)O)(CC(C)(C1=CC=C(C=C1)O)C)C1=CC=C(C=C1)O | C27H32O3
reactant | 1,3,5-tri-(4-hydroxyphenyl)-benzene | OC1=CC=C(C=C1)C1=CC(=CC(=C1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C24H18O3
reactant | 1,1,1-tri-(4-hydroxyphenyl)-ethane | OC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C20H18O3
reactant | tri-(4-hydroxyphenyl)-phenyl-methane | OC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C25H20O3
reactant | 2,4-dihydroxybenzoic acid | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | 2-(4-hydroxyphenyl)-2-(2,4-dihydroxyphenyl)-propane | OC1=CC=C(C=C1)C(C)(C)C1=C(C=C(C=C1)O)O | C15H16O3
product | α,α'-bis-(4-hydroxyphenyl)-p-diisopropylbenzene | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C24H26O2
